US07829715B2
In a mixture of sodium isopropoxide prepared from 0.20 g of 2-propanol and 0.08 g of metallic sodium with 20 ml of toluene and 2.5 ml of DMF, 2.58 g of (R)-quinuclidin-3-ol was allowed to react with 5.00 g of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid propan-2-yl ester for 8 hours while evaporating the solvent, thereby obtaining 3.97 g of a solifenacin-containing composition.

reactant | 2-propanol | 0.20 g | CC(C)O | C3H8O
reactant | sodium | 0.08 g | [Na] | Na
reactant | (R)-quinuclidin-3-ol | 2.58 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid propan-2-yl ester | 5.00 g | CC(C)OC(=O)N1[C@H](C2=CC=CC=C2CC1)C1=CC=CC=C1 | C19H21NO2
solvent | sodium isopropoxide | CC([O-])C.[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | solifenacin | 3.97 g | C=1C=CC(=CC1)[C@H]2C=3C=CC=CC3CCN2C(=O)O[C@H]4CN5CCC4CC5 | C23H26N2O2
